US07064124B2
N-(2-Chloropyridin-4-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
4-Amino-2-chloropyridine (0.103 g, 1.802 mmol), triethylamine (0.0812 g, 0.802 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.136 g, 0.802 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.200 g, 0.535 mmol) and the resulting solution was stirred in an oil bath at 50° C. for 8 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to obtain the titled compound (0.078 g, 0.161 mmol, 30%).

reactant | 4-Amino-2-chloropyridine | 1.802 mmol, 0.103 g | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | triethylamine | 0.802 mmol, 0.0812 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.802 mmol, 0.136 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.535 mmol, 0.200 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Chloropyridin-4-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.161 mmol, 0.078 g, 30% | ClC1=NC=CC(=C1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C24H21ClN2O7
